US05514824
Preparation of trans-4-(4-ethyl-4-silacyclohexyl)-3', 4'-difluorobiphenyl
The general procedure of Example 12 was repeated using 30.2 g of 4-(4-ethyl-4-phenyl-4-silacyclohexyl)cyclohexanone and 3,4-difluorophenylmagnesium bromide, thereby obtaining the captioned compound.

reactant | 4-(4-ethyl-4-phenyl-4-silacyclohexyl)cyclohexanone | 30.2 g | C(C)[Si]1(CCC(CC1)C1CCC(CC1)=O)C1=CC=CC=C1 | C19H28OSi
reactant | 3,4-difluorophenylmagnesium bromide | FC=1C=C(C=CC1F)[Mg]Br
product | trans-4-(4-ethyl-4-silacyclohexyl)-3', 4'-difluorobiphenyl | C(C)[Si@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC(=C(C=C1)F)F | C19H22F2Si
